US08431596B2
5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-6-methoxy-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
To a mixture ethanol/methanol (5 mL/5 mL), hydroxylamine hydrochloride (0.47 g, 6.8 mmol) and diisopropylethylamine (0.71 mL, 4.08 mmol) were added successively. The mixture was stirred for 1 hour and 1-[6-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-4-methoxy-pyridin-2-yl]-3-carboethoxy-thiourea was added portionwise. The mixture was refluxed for 3 hours and then allowed to cool to room temperature. The solvent was removed under reduced pressure, and the resulting solid collected by filtration and washed with water followed by methanol. The solid was used without further purification (0.33 g, 80%). LCMS Method: 2: RT: 2.57 min, MI: 299 [M+1].

reactant | hydroxylamine hydrochloride | 6.8 mmol, 0.47 g | Cl.NO
reactant | diisopropylethylamine | 4.08 mmol, 0.71 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[6-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-4-methoxy-pyridin-2-yl]-3-carboethoxy-thiourea | O1CCOC2=C1C=CC(=C2)C2=CC(=CC(=N2)NC(=S)NC(=O)OCC)OC | C18H19N3O5S
reactant | ethanol methanol | 5 mL | C(C)O.CO
product | 5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-6-methoxy-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | O1CCOC2=C1C=CC(=C2)C2=C(C=CC=1N2N=C(N1)N)OC | C15H14N4O3
